
* C:\Users\chinm\Desktop\try\sr_a.cir

.lib "sky130_fd_pr/models/sky130.lib.spice " tt    

xM3  Net-_M1-Pad1_ R vdd vdd            sky130_fd_pr__pfet_01v8 w=1    l=0.5     		
xM4  Q Qbar Net-_M3-Pad1_ Net-_M3-Pad1_ sky130_fd_pr__pfet_01v8 w=1    l=0.5		
xM1  Q R Net-_M1-Pad3_ Net-_M1-Pad3_    sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM6  Q Qbar GND GND                     sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM5  Net-_M3-Pad1_ CLK vdd vdd          sky130_fd_pr__pfet_01v8 w=1    l=0.5		
xM2  Net-_M1-Pad3_ CLK GND GND          sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM10  Net-_M10-Pad1_ S vdd vdd          sky130_fd_pr__pfet_01v8 w=1    l=0.5		
xM9  Qbar Q Net-_M10-Pad1_ Net-_M10-Pad1_  sky130_fd_pr__pfet_01v8 w=1    l=0.5		
xM11  Qbar S Net-_M11-Pad3_ Net-_M11-Pad3_ sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM7  Qbar Q GND GND                        sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM8  Net-_M10-Pad1_ CLK vdd vdd            sky130_fd_pr__pfet_01v8 w=1    l=0.5		
xM12  Net-_M11-Pad3_ CLK GND GND           sky130_fd_pr__nfet_01v8 w=0.42 l=0.5	


Vdd vdd 0 3.3
Vd0 CLK 0 pulse(0  1.8  0 0 0 5us 10us)
Vd1 S 0 pulse(0  1.8  0 0 0 5us 10us )
Vd2 R 0 pulse(0  1.8  5us 0 0 5us 15us)

.tran 0.1us 40us

.control
run

plot V(R)    
plot V(S)
plot V(CLK)
plot V(Q)
plot V(Qbar)
.endc
.end
